US08669234B2
6-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester (800 mg, 1.38 mmol) was dissolved in DCM (15 mL) and HBr in AcOH (37%, 2 mL) was added and stirring at room temperature was continued. After 180 minutes, the suspension was diluted with hexanes and the solid was collected via filtration and was washed with hexanes and subjected to vacuum. The crude material was used in the next step without further purification. The crude material was dissolved in DMF (4.0 mL) and DIEA (356 mg, 2.76 mmol) was added. A solution of 2-(L)-Methoxycarbonylamino-3-methyl-butyric acid (242 mg, 1.38 mmol), HATU (524 mg, 1.38 mmol) and DIEA (178 mg, 1.38 mmol) in DMF (1 mL) was added. The reaction was stirred at room temperature. After 50 minutes, the reaction was diluted with EtOAc and was washed with aqueous bicarbonate solution, aqueous LiCl solution (5%), brine, and was dried over sodium sulfate. Filtration and removal of solvents in vacuo gave the crude material, which was purified by silica gel chromatography (eluent: EtOAc/hexanes) to yield the slightly impure product (1-{6-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (878 mg). LCMS-ESI+: calc'd for C29H29BrF2N4O3: 599.5 (M+). Found: 598.5/600.5 (M+H+).

reactant | 6-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carboxylic acid benzyl ester | 1.38 mmol, 800 mg | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(F)F | C30H24BrF2N3O2
reactant | HBr | Br | BrH
reactant | DIEA | 2.76 mmol, 356 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.38 mmol, 524 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.38 mmol, 178 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (1-{6-[5-(7-Bromo-9,9-difluoro-9H-fluoren-2-yl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 878 mg | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(F)F)=O | C29H29BrF2N4O3
